US07173045B2
C-(1H-Indol-3-yl)-methylamine (292 mg, 2 mmol.) and 4-dimethylamino-4-phenylcyclohexanecarbaldehyde (463 mg, 2 mmol.) were dissolved, under argon, in abs. 1,2-dichloroethane (20 ml). Sodium triacetoxyborohydride (600 mg, 2.8 mmol.) was added to this mixture, and stirring was carried out for 24 h at RT. For working up, the mixture was concentrated and 1M HCl (20 ml) and ether (40 ml) were added thereto. The aqueous phase was washed with ether (2×20 ml), adjusted to pH 11 with 5M NaOH, diluted with water (10 ml) and extracted with EE (3×20 ml). The combined EE extracts were dried, filtered and concentrated. The resulting crude product, a mixture of the two diastereoisomeric target compounds, was purified by chromatography on silica gel with methanol/conc. ammonia solution (500:1) and separated. The non-polar diastereoisomer of (4-{[(1H-indol-3-ylmethyl)amino]methyl}-1-phenylcyclohexyl)dimethylamine dihydrochloride could be obtained in the form of a brown oil in a yield of 83 mg. The oil was dissolved in 2-butanone (5 ml); chlorotrimethylsilane (72 μl, 0.56 mmol.) was added thereto, and stirring was carried out for 2 h at RT. The resulting solid was filtered off with suction. The dihydrochloride of the non-polar diastereoisomer of (4-{[(1H-indol-3-ylmethyl)amino]methyl}-1-phenylcyclohexyl)dimethylamine could thus be obtained in a yield of 48 mg (white solid, m.p. 181–183° C.).

reactant | C-(1H-Indol-3-yl)-methylamine | 2 mmol, 292 mg | N1C=C(C2=CC=CC=C12)CN | C9H10N2
reactant | 4-dimethylamino-4-phenylcyclohexanecarbaldehyde | 2 mmol, 463 mg | CN(C1(CCC(CC1)C=O)C1=CC=CC=C1)C | C15H21NO
reactant | Sodium triacetoxyborohydride | 2.8 mmol, 600 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | (4-{[(1H-indol-3-ylmethyl)amino]methyl}-1-phenylcyclohexyl)dimethylamine dihydrochloride | Cl.Cl.N1C=C(C2=CC=CC=C12)CNCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C24H31N3.2ClH/c1-27(2)24(21-8-4-3-5-9-21)14-12-19(13-15-24)16-25-17-20-18-26-23-11-7-6-10-22(20)23;;/h3-11,18-19,25-26H,12-17H2,1-2H3;2*1H
